US09402397B2
4-Bromo-1-phenyl-1H-pyrazole (150 mg, 0.672 mmol), thiophen-2-ylboronic acid (296 mg, 2.31 mmol), PEPPSI-iPr (13.6 mg, 0.062 mmol), and K2CO3 (480 mg, 3.48 mmol) were combined in toluene-methanol (1:1) (2 ml). The reaction mixture was heated under microwave at 80° C. for 10 minutes. The reaction mixture was then filtered and washed with toluene-methanol (5 ml), and the filtrate was concentrated. The crude mixture was then column purified using 15-20% ethyl acetate/hexane to yield 1-phenyl-4-(thiophen-2-yl)-1H-pyrazole (42 mg, yield 27%). The HPLC purity of the final product was 99.32%. LC-MS [M+H] 227 (C13H10N2S+H expected 227.06). The 1H-NMR spectra was in accordance with the chemical structure.

reactant | 4-Bromo-1-phenyl-1H-pyrazole | 0.672 mmol, 150 mg | BrC=1C=NN(C1)C1=CC=CC=C1 | C9H7BrN2
reactant | thiophen-2-ylboronic acid | 2.31 mmol, 296 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 3.48 mmol, 480 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene-methanol | 2 ml | C=1(C(=CC=CC1)CO)C | C8H10O
product | 1-phenyl-4-(thiophen-2-yl)-1H-pyrazole | 42 mg, yield 27% | C1(=CC=CC=C1)N1N=CC(=C1)C=1SC=CC1 | C13H10N2S
